US07727992B2
(2-Amino-3-nitro-5-pyridin-3-yl-phenyl)-cyclohexyl-methanone:
To a solution of (2-amino-5-bromo-3-nitro-phenyl)-cyclohexyl-methanone (600 mg, 1.83 mmol) in DME (25 mL) was added, successively, pyridine-3-boronic acid 1,3-propanediol cyclic ester (388 mg, 2.38 mmol), (tetrakistriphenylphosphine) palladium(0) (212 mg, 0.18 mmol), and 1N NaHCO3 (3.7 mL, 3.7 mmol). The resulting mixture was stared at 90° C. for 90 minutes then cooled to room temperature. The reaction mixture was diluted with EtOAc (100 mL), washed with water (50 mL), brine (50 mL), dried (MgSO4), filtered and the filtrate concentrated in vacuo. The resulting residue was purified by flash chromatography (SiO2, hexanes to 3:1 hexanes:EtOAc) to afford 527 mg (89%) of the title compound as a pale orange solid: 1H NMR (CDCl3, 500 MHz) δ 8.92 (d, 1H), 8.69 (d, 1H), 8.66 (d, 1H), 8.31 (d, 1H), 8.20 (d, 1H), 7.71 (dd, 1H), 3.36 (m, 1H), 1.88 (m, 3H), 1.77 (m, 1H), 1.40-1.61 (m, 3H), 1.24-1.32 (m, 2H), 0.89 (m, 1H).

reactant | (2-amino-5-bromo-3-nitro-phenyl)-cyclohexyl-methanone | 1.83 mmol, 600 mg | NC1=C(C=C(C=C1[N+](=O)[O-])Br)C(=O)C1CCCCC1 | C13H15BrN2O3
reactant | pyridine-3-boronic acid 1,3-propanediol cyclic ester | 2.38 mmol, 388 mg | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | NaHCO3 | 3.7 mmol, 1N, 3.7 mL | C(=O)(O)[O-].[Na+]
solvent | DME | 25 mL | COCCOC | C4H10O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (2-Amino-3-nitro-5-pyridin-3-yl-phenyl)-cyclohexyl-methanone | 527 mg, 89% | NC1=C(C=C(C=C1[N+](=O)[O-])C=1C=NC=CC1)C(=O)C1CCCCC1 | C18H19N3O3
